US05968985
A mixture of methyl 3-(thiophen-3-yl)benzoate (2 g) in acetic anhydride (2 g) was heated to 75° C. The oil bath was removed and phosphoric acid (0.063 ml) was added thereto. The reaction mixture was stirred at 140° C. for 2 hours and cooled to room temperature. The mixture was diluted with ethyl acetate and washed successively with water, an aqueous sodium carbonate solution (×2) and brine. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of hexane:ethyl acetate (10:1) to afford methyl 3-(2-acetylthiophen-3-yl)benzoate (1.44 g).

reactant | methyl 3-(thiophen-3-yl)benzoate | 2 g | S1C=C(C=C1)C=1C=C(C(=O)OC)C=CC1 | C12H10O2S
reactant | acetic anhydride | 2 g | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 3-(2-acetylthiophen-3-yl)benzoate | 1.44 g | C(C)(=O)C=1SC=CC1C=1C=C(C(=O)OC)C=CC1 | C14H12O3S
